US07745484B2
Step 1: tert-butyl (S)-2-(allyloxy)-1-((S)-oxiran-2-yl)ethylcarbamate
To a solution of tert-butyl (S)-2-hydroxy-1-((S)-oxiran-2-yl)ethylcarbamate (0.125 g, 0.6 mmol; see: Kurokawa, N.; Ohfune, Y. Tetrahedron 1993, 49, 6195) in toluene (6 mL), was added allyliodide 0.3 mL, 3 mmol) followed by silver(I) oxide (0.7 g, 3 mmol). The solution was stirred at 65° C. in a darkened hood for a period of 15 h. The mixture was then cooled to ambient temperature, filtered through Celite, washed with CH2Cl2, and conc. in vacuo. Purification on SiO2 (10-20% EtoAc/Hexanes) gave the title compound as a yellow oil.

reactant | tert-butyl (S)-2-hydroxy-1-((S)-oxiran-2-yl)ethylcarbamate | 0.6 mmol, 0.125 g | OC[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C9H17NO4
reactant | allyliodide | 3 mmol, 0.3 mL | C(C=C)I | C3H5I
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver(I) oxide | 3 mmol, 0.7 g | [Ag-]=O
product | tert-butyl (S)-2-(allyloxy)-1-((S)-oxiran-2-yl)ethylcarbamate | C(C=C)OC[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C12H21NO4
